US07662811B2
A mixture of 1-(7-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone (5.34 g, 17.3 mmol) and Pd(dppf)Cl2.CH2Cl2 (708 mg, 0.867 mmol) was azeotroped with benzene and suspended in 50 mL of dry THF. At room temperature, 4-ethoxy-4-oxobutylzinc bromide (0.5M in THF, 52 mL, 26 mmol) was added dropwise with syringe. The orange suspension became a clear brown solution. The reaction mixture was then refluxed for 2 h. After cooling to room temperature, it was quenched with brine, extracted with EtOAc, washed with 10% HCl and brine, dried over Na2SO4, and evaporated to dryness. Flash chomatography (SiO2, EtOAc/hexane=15:100 to 20:100) gave ethyl 4-(2-(2,2,2-trifluoroacetyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)butanoate as a white solid.

reactant | 1-(7-bromo-3,4-dihydroisoquinolin-2(1H)-yl)-2,2,2-trifluoroethanone | 17.3 mmol, 5.34 g | BrC1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C11H9BrF3NO
reactant | CH2Cl2 | 0.867 mmol, 708 mg | C(Cl)Cl | CH2Cl2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 4-ethoxy-4-oxobutylzinc bromide | 26 mmol, 0.5M, 52 mL | [Br-].C(C)OC(CCC[Zn+])=O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 4-(2-(2,2,2-trifluoroacetyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)butanoate | FC(C(=O)N1CC2=CC(=CC=C2CC1)CCCC(=O)OCC)(F)F | C17H20F3NO3
